US07018997B2
Step 1: (5R. 6RS)-6-((RS)-Acetoxy imidazo[1,2-a]quinoxalin-2-ylmethyl)-6-bromo-7-oxo-4-thia-1-azabicyclo [3.2.0]hept-2-ene-2-carboxylic acid p-nitrobenzyl ester:
A dry acetonitrile (33 mL) solution of imidazo[1,2-a]quinoxaline-2-carboxaldehyde (505 mg) was added to a dry acetonitrile (20 mL) solution of MgBr2 (1.1 g) under an nitrogen atmosphere at room temperature, and the mixture was stirred for 10 min. After addition of the dry THF (25 mL) solution of (5R, 6S)-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester (931 mg), the mixture was cooled to −20° C. then triethylamine (0.8 mL) was added in one portion. The reaction vessel was covered with foil to exclude light. The reaction mixture was stirred for 4 h at −20° C. and treated with 4,4-dimethylamino pyridine (58 mg) and acetic anhydride (0.44 mL) in one portion. The reaction mixture was warmed to 0° C. and stirred for 16 h at 0° C. 10% Citric acid aqueous solution (200 mL) was added to the reaction mixture and the aqueous layer was extracted with ethyl acetate (3×100 mL). The organic layer was washed with water, saturated sodium hydrogen carbonate and brine, dried (MgSO4) and filtered. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography, eluted with CH2Cl2— acetone (50:1), and the title compound was obtained as a diastereomeric mixture (78:22, pale brown foamy amorphous, 1.0 g, 68.9%).

reactant | imidazo[1,2-a]quinoxaline-2-carboxaldehyde | 505 mg | C1=C(N=C2N1C1=CC=CC=C1N=C2)C=O | C11H7N3O
reactant | MgBr2 | 1.1 g | [Mg+2].[Br-].[Br-]
reactant | (5R, 6S)-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester | 931 mg | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C([C@@H]([C@H]3SC2)Br)=O)C=C1 | C13H9BrN2O5S
reactant | 4,4-dimethylamino pyridine | 58 mg | CNC1(CC=NC=C1)NC | C7H13N3
reactant | acetic anhydride | 0.44 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Citric acid | 200 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | triethylamine | 0.8 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | acetonitrile | 33 mL | C(C)#N | C2H3N
product | (5R. 6RS)-6-((RS)-Acetoxy imidazo[1,2-a]quinoxalin-2-ylmethyl)-6-bromo-7-oxo-4-thia-1-azabicyclo [3.2.0]hept-2-ene-2-carboxylic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C(C([C@H]3SC2)(Br)C(C=2N=C3N(C4=CC=CC=C4N=C3)C2)OC(C)=O)=O)C=C1 | C26H18BrN5O7S
